US07560558B2
Compound 274: 4-(5,6-Dimethyl-2-pyrimidin-2-yl-pyridin-3-yloxy)-6,7-dimethoxy-quinoline
Dimethyl sulfoxide (2.5 ml) was added to 5,6-dimethyl-2-pyrimidin-2-yl-pyridin-3-ol (50 mg), 4-chloro-6,7-dimethoxyquinoline (167 mg), and cesium carbonate (243 mg), and the mixture was stirred at 130° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using hexane-acetone to give the title compound (54 mg, yield 55%).

reactant | Dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
reactant | 5,6-dimethyl-2-pyrimidin-2-yl-pyridin-3-ol | 50 mg | CC=1C=C(C(=NC1C)C1=NC=CC=N1)O | C11H11N3O
reactant | 4-chloro-6,7-dimethoxyquinoline | 167 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | cesium carbonate | 243 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | O | H2O
product | 4-(5,6-Dimethyl-2-pyrimidin-2-yl-pyridin-3-yloxy)-6,7-dimethoxy-quinoline | 54 mg, yield 55% | CC=1C=C(C(=NC1C)C1=NC=CC=N1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C22H20N4O3
